US06001849
15c. 2-(Hexahydro-1H-7a-pyrrolizinyl)furo[3,2-b]pyridine
2-Iodo-3-pyridinol (902 mg, 4.1 mmol), copper(I) iodide (116 mg, 0.61 mmol), bis(triphenylphosphine)palladium(II) chloride (119 mg, 0.17 mmol) and triethylamine (570 mL, 4.1 mmol) were combined in DMF (4.5 mL) and stirred for one hour. 7a-Ethynyl-hexahydro-1H-pyrrolizine(460 mg, 3.4 mmol) in DMF (1.2 mL) was added dropwise and the mixture was heated at 60° C. for 18 h. The reaction mixture was allowed to cool to ambient temperature and 2 N aqueous HCl was added. The heterogeneous mixture was washed with Et2O (2×), basified with 15% NaOH solution and extracted with CH2Cl2 (2×). The CH2Cl2 extracts were combined, dried (MgSO4) concentrated and chromatographed (silica gel; CHCl3 /MeOH, 96:4) to afford an amber oil which solidified upon storage at -20° C. (405 mg, 52%): mp 39-41° C.; 1H NMR (CDCl3, 300 MHz) δ 1.86-1.97 (m, 6H), 2.24-2.34 (m, 2H), 2.68-2.76 (m, 2H), 3.21-3.28 (m, 2H), 6.77 (s, 1H), 7.12 (dd, J=8.5, 5 Hz, 1H), 7.65 (d, J=8.5 Hz, 1H), 8.46 (d, J=5 Hz, 1H); MS (CI/NH3) m/z: 229 (M+H)+.

reactant | 2-Iodo-3-pyridinol | 4.1 mmol, 902 mg | IC1=NC=CC=C1O | C5H4INO
reactant | triethylamine | 4.1 mmol, 570 mL | C(C)N(CC)CC | C6H15N
reactant | 7a-Ethynyl-hexahydro-1H-pyrrolizine | 3.4 mmol, 460 mg | C(#C)C12CCCN2CCC1 | C9H13N
reactant | HCl | 2 N | Cl | ClH
solvent | DMF | 4.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.2 mL | CN(C)C=O | C3H7NO
catalyst | copper(I) iodide | 0.61 mmol, 116 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.17 mmol, 119 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(Hexahydro-1H-7a-pyrrolizinyl)furo[3,2-b]pyridine | C1CCN2CCCC12C1=CC2=NC=CC=C2O1 | C14H16N2O
